US04576946
(a) 3-(2-Morpholino ethylamino)4-methyl 6-(4-methoxy phenyl)pyridazine
Operation is carried out as in Example 1, replacing the N-(2-hydroxy ethyl)ethylenediamine by an equivalent quantity of 2-morpholino ethylamine and the 3-chloro 4-methyl 6-phenyl pyridazine by a corresponding quantity of 3-chloro 4-methyl 6-(4-methoxy phenyl)pyridazine.

reactant | N-(2-hydroxy ethyl)ethylenediamine | OCCNCCN | C4H12N2O
reactant | 2-morpholino ethylamine | O1CCN(CC1)CCN | C6H14N2O
reactant | 3-chloro 4-methyl 6-phenyl pyridazine | ClC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9ClN2
reactant | 3-chloro 4-methyl 6-(4-methoxy phenyl)pyridazine | ClC=1N=NC(=CC1C)C1=CC=C(C=C1)OC | C12H11ClN2O
product | 3-(2-Morpholino ethylamino)4-methyl 6-(4-methoxy phenyl)pyridazine | O1CCN(CC1)CCNC=1N=NC(=CC1C)C1=CC=C(C=C1)OC | C18H24N4O2
